US08183380B2
2-(4-{3-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-ureido}-piperidin-1-yl)-N,N-dimethylacetamide
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea (0.05 g, 0.12 mmol), 2-chloro-N,N-dimethylacetamide (0.023 mg, 0.18 mmol) and sodium carbonate (0.02 g, 0.18 mmol) were stirred at ambient temperature for 16 h in N,N-dimethylformamide (3 mL). The reaction mixture was evaporated. The residue was taken up in dimethylsulfoxide (1 mL) and subjected to preparative HPLC to yield the title compound (0.053 g, 87%) as a yellow oil; MS: m/e=487.8 (M+H+).

reactant | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-3-piperidin-4-yl-urea | 0.12 mmol, 0.05 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCNCC1 | C24H27N5O
reactant | 2-chloro-N,N-dimethylacetamide | 0.18 mmol, 0.023 mg | ClCC(=O)N(C)C | C4H8ClNO
reactant | sodium carbonate | 0.18 mmol, 0.02 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-(4-{3-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-ureido}-piperidin-1-yl)-N,N-dimethylacetamide | 0.053 g, 87% | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(NC1CCN(CC1)CC(=O)N(C)C)=O | C28H34N6O2
